US08022062B2
1-(2,2-Dimethyl-propylthio)-4-methyl-benzene:
Dissolve 4-methyl-benzenethiol (1.5 g, 12.08 mmol) in anhydrous DMF (6 mL). Cool the solution to 0° C., add sodium hydride (435 mg, 17.21 mmol, 95%) and stir the mixture under nitrogen atmosphere for 15 mm. Add 1-iodo-2,2-dimethylpropane (1.93 mL, 14.5 mmol), stir the mixture for 1 h at 0° C., warm to room temperature and stir overnight. Add water and extract the aqueous phase twice with EtOAc. Wash the combined organic extracts twice with iced-water, dry over Na2SO4, filter and concentrate in vacuo to give the desired intermediate (1.476 g, 63% yield).

reactant | 4-methyl-benzenethiol | 12.08 mmol, 1.5 g | CC1=CC=C(C=C1)S | C7H8S
reactant | sodium hydride | 17.21 mmol, 435 mg | [H-].[Na+]
reactant | 1-iodo-2,2-dimethylpropane | 14.5 mmol, 1.93 mL | ICC(C)(C)C | C5H11I
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 1-(2,2-Dimethyl-propylthio)-4-methyl-benzene | 1.476 g, 63% yield | CC(CSC1=CC=C(C=C1)C)(C)C | C12H18S
